US07897767B2
To a solution of 7-bromo-2-(chloromethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (13.9 g, 39.4 mmol) in chloroform (300 mL) at room temperature was added mCPBA (77% pure, 17.7 g, 78.8 mmol) over ten minutes. The reaction mixture was stirred at room temperature for 3 hours, then concentrated ammonium hydroxide (150 mL) was added, followed by p-toluenesulfonyl chloride (9.00 g, 47.3 mmol, added in portions over 10 minutes). The mixture was stirred at room temperature for 1 hour, then was transferred to a separatory funnel. The layers were separated and the aqueous layer was extracted with dichloromethane (2×100 mL). The organic layers were combined, dried over magnesium sulfate, filtered through CELITE filter agent, and concentrated under reduced pressure. The crude product was purified by chromatography using a HORIZON HPFC system (silica gel, gradient elution with ethyl acetate in hexanes) to yield 7.69 g of 7-bromo-2-(chloromethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine as a yellow foam.

reactant | 7-bromo-2-(chloromethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 39.4 mmol, 13.9 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)CCl | C15H15BrClN3
reactant | mCPBA | 78.8 mmol, 17.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 150 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 47.3 mmol, 9.00 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-2-(chloromethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 7.69 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCl | C15H16BrClN4
